* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0009028017595789607
Fd1_1 0 s1 V1 -0.045140087978948036
Gr1_1_1 0 s1 x1_a1 0 6.603630173964132e+21
Gr2_1_1 0 s1 x2_a1 0 3944790160121868.5
Gr3_1_1 0 s1 x3_a1 0 788272872546.4164
Gr4_1_1 0 s1 x4_a1 0 44271686067173.93
Gr5_1_1 0 s1 x5_a1 0 -4.620888510227247e+18
Gr6_re_1_1 0 s1 x6_re_a1 0 -5.64407084951628e+19
Gr6_im_1_1 0 s1 x6_im_a1 0 5.742312927206671e+18
Gr7_re_1_1 0 s1 x7_re_a1 0 2.570631514625701e+19
Gr7_im_1_1 0 s1 x7_im_a1 0 -1.5379200705580378e+17
Gr8_re_1_1 0 s1 x8_re_a1 0 1.5806591611289102e+19
Gr8_im_1_1 0 s1 x8_im_a1 0 1.47557673393487e+18
Gr9_re_1_1 0 s1 x9_re_a1 0 1.0305308203935635e+19
Gr9_im_1_1 0 s1 x9_im_a1 0 2.783119646095608e+18
Gr10_re_1_1 0 s1 x10_re_a1 0 3.6277892097082353e+18
Gr10_im_1_1 0 s1 x10_im_a1 0 7.434158996110136e+17
Gr11_1_1 0 s1 x11_a1 0 3.515520759637567e+18
Gr12_1_1 0 s1 x12_a1 0 1.8448743590903488e+18
Gr13_1_1 0 s1 x13_a1 0 5.797439809307242e+17
Gr14_1_1 0 s1 x14_a1 0 4.241213666558458e+17
Gr15_1_1 0 s1 x15_a1 0 1.4717097234473856e+17
Gr16_1_1 0 s1 x16_a1 0 4.951043763211615e+16
Gr17_1_1 0 s1 x17_a1 0 3.19036934749426e+16
Gr18_1_1 0 s1 x18_a1 0 1.7407631412593302e+16
Gr19_1_1 0 s1 x19_a1 0 318755335273.2053
Gr20_1_1 0 s1 x20_a1 0 62207853584.95691
Gr21_1_1 0 s1 x21_a1 0 13197704929.422472
Gr22_1_1 0 s1 x22_a1 0 2352282433.598361
Gr23_1_1 0 s1 x23_a1 0 318936431.0498151
Gr24_1_1 0 s1 x24_a1 0 31226697.29478284
Gr25_1_1 0 s1 x25_a1 0 1659520.9558055007
Gr26_1_1 0 s1 x26_a1 0 38291.09439501049
Gr27_1_1 0 s1 x27_a1 0 265.3233148369349
Gr28_1_1 0 s1 x28_a1 0 0.2777250560920141
Gr29_1_1 0 s1 x29_a1 0 6.422197909604309e-07
Gr30_1_1 0 s1 x30_a1 0 1.0244337502646997e-23
Gr31_1_1 0 s1 x31_a1 0 3.094411342359296e-18
Gd1_2 0 s1 p2 0 0.004166891086016644
Fd1_2 0 s1 V2 0.2083445543008322
Gr1_1_2 0 s1 x1_a2 0 -2.984372616534678e+20
Gr2_1_2 0 s1 x2_a2 0 -251161189337645.88
Gr3_1_2 0 s1 x3_a2 0 -1561020659407.0083
Gr4_1_2 0 s1 x4_a2 0 44258110399428.98
Gr5_1_2 0 s1 x5_a2 0 -4.620052376109997e+18
Gr6_re_1_2 0 s1 x6_re_a2 0 -5.6430708003585516e+19
Gr6_im_1_2 0 s1 x6_im_a2 0 5.741274664412731e+18
Gr7_re_1_2 0 s1 x7_re_a2 0 2.570175894099207e+19
Gr7_im_1_2 0 s1 x7_im_a2 0 -1.5377355433183917e+17
Gr8_re_1_2 0 s1 x8_re_a2 0 1.5803787276241402e+19
Gr8_im_1_2 0 s1 x8_im_a2 0 1.4753089840694295e+18
Gr9_re_1_2 0 s1 x9_re_a2 0 1.0303479383827773e+19
Gr9_im_1_2 0 s1 x9_im_a2 0 2.7826199289565153e+18
Gr10_re_1_2 0 s1 x10_re_a2 0 3.627145768396556e+18
Gr10_im_1_2 0 s1 x10_im_a2 0 7.43278488648373e+17
Gr11_1_2 0 s1 x11_a2 0 3.51489761715675e+18
Gr12_1_2 0 s1 x12_a2 0 1.8445474106208297e+18
Gr13_1_2 0 s1 x13_a2 0 5.79641290960443e+17
Gr14_1_2 0 s1 x14_a2 0 4.2404623568859354e+17
Gr15_1_2 0 s1 x15_a2 0 1.4714490801997005e+17
Gr16_1_2 0 s1 x16_a2 0 4.950166906841806e+16
Gr17_1_2 0 s1 x17_a2 0 3.18980439960031e+16
Gr18_1_2 0 s1 x18_a2 0 1.7404548670381712e+16
Gr19_1_2 0 s1 x19_a2 0 318698880436.6811
Gr20_1_2 0 s1 x20_a2 0 62196868294.56741
Gr21_1_2 0 s1 x21_a2 0 13195353993.785198
Gr22_1_2 0 s1 x22_a2 0 2351860699.940969
Gr23_1_2 0 s1 x23_a2 0 318879051.705037
Gr24_1_2 0 s1 x24_a2 0 31221071.088943057
Gr25_1_2 0 s1 x25_a2 0 1659221.797676985
Gr26_1_2 0 s1 x26_a2 0 38284.19081583856
Gr27_1_2 0 s1 x27_a2 0 265.2754780990677
Gr28_1_2 0 s1 x28_a2 0 0.2776749832718541
Gr29_1_2 0 s1 x29_a2 0 6.421040010541113e-07
Gr30_1_2 0 s1 x30_a2 0 1.0242490485633321e-23
Gr31_1_2 0 s1 x31_a2 0 3.0938534311827807e-18
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.914332022009837e-23
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 3.138810813389345e-17
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 8.271204999662257e-15
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 2.4681747794717703e-13
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.2155336726023232e-11
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.5798066234595047e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 18767848308.540543
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -18767848308.540543
Rp6_im_im_a1 0 x6_im_a1 1.5798066234595047e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.798626608216723e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 13980087205.836605
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -13980087205.836605
Rp7_im_im_a1 0 x7_im_a1 1.798626608216723e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.2873586813450947e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 10094510075.019722
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -10094510075.019722
Rp8_im_im_a1 0 x8_im_a1 1.2873586813450947e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 1.0605771725377744e-10
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 7055403855.308925
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -7055403855.308925
Rp9_im_im_a1 0 x9_im_a1 1.0605771725377744e-10
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 1.283196121789219e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 1637211548.3685184
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -1637211548.3685184
Rp10_im_im_a1 0 x10_im_a1 1.283196121789219e-10
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 1.7778476993755374e-10
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 2.4853989703722704e-10
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 4.5484039990608173e-10
Cx14_a1 x14_a1 0 1.0
Gx14_a1 0 x14_a1 p1 0 0.07071067811865475
Fx14_a1 0 x14_a1 V1 3.5355339059327378
Rp14_a1 0 x14_a1 5.348784715066799e-10
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 9.219635521217255e-10
Cx16_a1 x16_a1 0 1.0
Gx16_a1 0 x16_a1 p1 0 0.07071067811865475
Fx16_a1 0 x16_a1 V1 3.5355339059327378
Rp16_a1 0 x16_a1 1.6052924622046478e-09
Cx17_a1 x17_a1 0 1.0
Gx17_a1 0 x17_a1 p1 0 0.07071067811865475
Fx17_a1 0 x17_a1 V1 3.5355339059327378
Rp17_a1 0 x17_a1 2.0053009143146487e-09
Cx18_a1 x18_a1 0 1.0
Gx18_a1 0 x18_a1 p1 0 0.07071067811865475
Fx18_a1 0 x18_a1 V1 3.5355339059327378
Rp18_a1 0 x18_a1 2.7228102788755324e-09
Cx19_a1 x19_a1 0 1.0
Gx19_a1 0 x19_a1 p1 0 0.07071067811865475
Fx19_a1 0 x19_a1 V1 3.5355339059327378
Rp19_a1 0 x19_a1 6.417276890987679e-07
Cx20_a1 x20_a1 0 1.0
Gx20_a1 0 x20_a1 p1 0 0.07071067811865475
Fx20_a1 0 x20_a1 V1 3.5355339059327378
Rp20_a1 0 x20_a1 1.4526662651175536e-06
Cx21_a1 x21_a1 0 1.0
Gx21_a1 0 x21_a1 p1 0 0.07071067811865475
Fx21_a1 0 x21_a1 V1 3.5355339059327378
Rp21_a1 0 x21_a1 3.1538653665615057e-06
Cx22_a1 x22_a1 0 1.0
Gx22_a1 0 x22_a1 p1 0 0.07071067811865475
Fx22_a1 0 x22_a1 V1 3.5355339059327378
Rp22_a1 0 x22_a1 7.470497934366621e-06
Cx23_a1 x23_a1 0 1.0
Gx23_a1 0 x23_a1 p1 0 0.07071067811865475
Fx23_a1 0 x23_a1 V1 3.5355339059327378
Rp23_a1 0 x23_a1 2.0288181193043306e-05
Cx24_a1 x24_a1 0 1.0
Gx24_a1 0 x24_a1 p1 0 0.07071067811865475
Fx24_a1 0 x24_a1 V1 3.5355339059327378
Rp24_a1 0 x24_a1 6.483843398736913e-05
Cx25_a1 x25_a1 0 1.0
Gx25_a1 0 x25_a1 p1 0 0.07071067811865475
Fx25_a1 0 x25_a1 V1 3.5355339059327378
Rp25_a1 0 x25_a1 0.00028125761872502313
Cx26_a1 x26_a1 0 1.0
Gx26_a1 0 x26_a1 p1 0 0.07071067811865475
Fx26_a1 0 x26_a1 V1 3.5355339059327378
Rp26_a1 0 x26_a1 0.0018515984618650313
Cx27_a1 x27_a1 0 1.0
Gx27_a1 0 x27_a1 p1 0 0.07071067811865475
Fx27_a1 0 x27_a1 V1 3.5355339059327378
Rp27_a1 0 x27_a1 0.022243749376790932
Cx28_a1 x28_a1 0 1.0
Gx28_a1 0 x28_a1 p1 0 0.07071067811865475
Fx28_a1 0 x28_a1 V1 3.5355339059327378
Rp28_a1 0 x28_a1 0.6875244898564169
Cx29_a1 x29_a1 0 1.0
Gx29_a1 0 x29_a1 p1 0 0.07071067811865475
Fx29_a1 0 x29_a1 V1 3.5355339059327378
Rp29_a1 0 x29_a1 452.12015094095744
Cx30_a1 x30_a1 0 1.0
Gx30_a1 0 x30_a1 p1 0 0.07071067811865475
Fx30_a1 0 x30_a1 V1 3.5355339059327378
Rp30_a1 0 x30_a1 113201912312.5752
Cx31_a1 x31_a1 0 1.0
Gx31_a1 0 x31_a1 p1 0 0.07071067811865475
Fx31_a1 0 x31_a1 V1 3.5355339059327378
Rp31_a1 0 x31_a1 205971287.1794189
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.004166891086016644
Fd2_1 0 s2 V1 0.2083445543008322
Gr1_2_1 0 s2 x1_a1 0 -2.984372616735067e+20
Gr2_2_1 0 s2 x2_a1 0 -251161189349988.53
Gr3_2_1 0 s2 x3_a1 0 -1561020657658.1172
Gr4_2_1 0 s2 x4_a1 0 44258110326178.484
Gr5_2_1 0 s2 x5_a1 0 -4.62005236750092e+18
Gr6_re_2_1 0 s2 x6_re_a1 0 -5.643070789846114e+19
Gr6_im_2_1 0 s2 x6_im_a1 0 5.741274653714473e+18
Gr7_re_2_1 0 s2 x7_re_a1 0 2.570175889311229e+19
Gr7_im_2_1 0 s2 x7_im_a1 0 -1.5377355404659088e+17
Gr8_re_2_1 0 s2 x8_re_a1 0 1.5803787246800148e+19
Gr8_im_2_1 0 s2 x8_im_a1 0 1.4753089813202148e+18
Gr9_re_2_1 0 s2 x9_re_a1 0 1.03034793646331e+19
Gr9_im_2_1 0 s2 x9_im_a1 0 2.782619923771877e+18
Gr10_re_2_1 0 s2 x10_re_a1 0 3.627145761639478e+18
Gr10_im_2_1 0 s2 x10_im_a1 0 7.432784872629274e+17
Gr11_2_1 0 s2 x11_a1 0 3.514897610608829e+18
Gr12_2_1 0 s2 x12_a1 0 1.8445474071846298e+18
Gr13_2_1 0 s2 x13_a1 0 5.796412898806367e+17
Gr14_2_1 0 s2 x14_a1 0 4.24046234898644e+17
Gr15_2_1 0 s2 x15_a1 0 1.4714490774585654e+17
Gr16_2_1 0 s2 x16_a1 0 4.9501668976202424e+16
Gr17_2_1 0 s2 x17_a1 0 3.189804393658087e+16
Gr18_2_1 0 s2 x18_a1 0 1.7404548637959162e+16
Gr19_2_1 0 s2 x19_a1 0 318698879842.98376
Gr20_2_1 0 s2 x20_a1 0 62196868178.7023
Gr21_2_1 0 s2 x21_a1 0 13195353969.20384
Gr22_2_1 0 s2 x22_a1 0 2351860695.5597296
Gr23_2_1 0 s2 x23_a1 0 318879051.11100286
Gr24_2_1 0 s2 x24_a1 0 31221071.03078187
Gr25_2_1 0 s2 x25_a1 0 1659221.7945860499
Gr26_2_1 0 s2 x26_a1 0 38284.19074451958
Gr27_2_1 0 s2 x27_a1 0 265.27547760489074
Gr28_2_1 0 s2 x28_a1 0 0.27767498275457825
Gr29_2_1 0 s2 x29_a1 0 6.421039998579466e-07
Gr30_2_1 0 s2 x30_a1 0 1.0242490466552769e-23
Gr31_2_1 0 s2 x31_a1 0 3.093853425419294e-18
Gd2_2 0 s2 p2 0 -0.0008970600777690247
Fd2_2 0 s2 V2 -0.04485300388845124
Gr1_2_2 0 s2 x1_a2 0 6.597944121553749e+21
Gr2_2_2 0 s2 x2_a2 0 3941782484620908.5
Gr3_2_2 0 s2 x3_a2 0 814540165025.3242
Gr4_2_2 0 s2 x4_a2 0 44238763291148.77
Gr5_2_2 0 s2 x5_a2 0 -4.619215904575387e+18
Gr6_re_2_2 0 s2 x6_re_a2 0 -5.642070346540402e+19
Gr6_im_2_2 0 s2 x6_im_a2 0 5.740235990897963e+18
Gr7_re_2_2 0 s2 x7_re_a2 0 2.569720090243574e+19
Gr7_im_2_2 0 s2 x7_im_a2 0 -1.537550991564861e+17
Gr8_re_2_2 0 s2 x8_re_a2 0 1.5800981834289646e+19
Gr8_im_2_2 0 s2 x8_im_a2 0 1.4750411178123028e+18
Gr9_re_2_2 0 s2 x9_re_a2 0 1.0301649834632475e+19
Gr9_im_2_2 0 s2 x9_im_a2 0 2.782119945623089e+18
Gr10_re_2_2 0 s2 x10_re_a2 0 3.6265020514178176e+18
Gr10_im_2_2 0 s2 x10_im_a2 0 7.431408524082158e+17
Gr11_2_2 0 s2 x11_a2 0 3.5142740821734953e+18
Gr12_2_2 0 s2 x12_a2 0 1.844220367538892e+18
Gr13_2_2 0 s2 x13_a2 0 5.795385443950168e+17
Gr14_2_2 0 s2 x14_a2 0 4.239710853771305e+17
Gr15_2_2 0 s2 x15_a2 0 1.4711883160690826e+17
Gr16_2_2 0 s2 x16_a2 0 4.949289804285404e+16
Gr17_2_2 0 s2 x17_a2 0 3.1892391475327532e+16
Gr18_2_2 0 s2 x18_a2 0 1.7401464818777858e+16
Gr19_2_2 0 s2 x19_a2 0 318642423298.5342
Gr20_2_2 0 s2 x20_a2 0 62185817876.271095
Gr21_2_2 0 s2 x21_a2 0 13193029922.854748
Gr22_2_2 0 s2 x22_a2 0 2351449184.6320643
Gr23_2_2 0 s2 x23_a2 0 318823453.9921088
Gr24_2_2 0 s2 x24_a2 0 31215635.83285147
Gr25_2_2 0 s2 x25_a2 0 1658933.101991141
Gr26_2_2 0 s2 x26_a2 0 38277.53050028415
Gr27_2_2 0 s2 x27_a2 0 265.2293290783467
Gr28_2_2 0 s2 x28_a2 0 0.27762667725138956
Gr29_2_2 0 s2 x29_a2 0 6.419922967639995e-07
Gr30_2_2 0 s2 x30_a2 0 1.0240708640128499e-23
Gr31_2_2 0 s2 x31_a2 0 3.0933152057536383e-18
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.914332022009837e-23
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 3.138810813389345e-17
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 8.271204999662257e-15
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 2.4681747794717703e-13
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.2155336726023232e-11
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.5798066234595047e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 18767848308.540543
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -18767848308.540543
Rp6_im_im_a2 0 x6_im_a2 1.5798066234595047e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.798626608216723e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 13980087205.836605
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -13980087205.836605
Rp7_im_im_a2 0 x7_im_a2 1.798626608216723e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.2873586813450947e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 10094510075.019722
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -10094510075.019722
Rp8_im_im_a2 0 x8_im_a2 1.2873586813450947e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 1.0605771725377744e-10
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 7055403855.308925
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -7055403855.308925
Rp9_im_im_a2 0 x9_im_a2 1.0605771725377744e-10
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 1.283196121789219e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 1637211548.3685184
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -1637211548.3685184
Rp10_im_im_a2 0 x10_im_a2 1.283196121789219e-10
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 1.7778476993755374e-10
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 2.4853989703722704e-10
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 4.5484039990608173e-10
Cx14_a2 x14_a2 0 1.0
Gx14_a2 0 x14_a2 p2 0 0.07071067811865475
Fx14_a2 0 x14_a2 V2 3.5355339059327378
Rp14_a2 0 x14_a2 5.348784715066799e-10
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 9.219635521217255e-10
Cx16_a2 x16_a2 0 1.0
Gx16_a2 0 x16_a2 p2 0 0.07071067811865475
Fx16_a2 0 x16_a2 V2 3.5355339059327378
Rp16_a2 0 x16_a2 1.6052924622046478e-09
Cx17_a2 x17_a2 0 1.0
Gx17_a2 0 x17_a2 p2 0 0.07071067811865475
Fx17_a2 0 x17_a2 V2 3.5355339059327378
Rp17_a2 0 x17_a2 2.0053009143146487e-09
Cx18_a2 x18_a2 0 1.0
Gx18_a2 0 x18_a2 p2 0 0.07071067811865475
Fx18_a2 0 x18_a2 V2 3.5355339059327378
Rp18_a2 0 x18_a2 2.7228102788755324e-09
Cx19_a2 x19_a2 0 1.0
Gx19_a2 0 x19_a2 p2 0 0.07071067811865475
Fx19_a2 0 x19_a2 V2 3.5355339059327378
Rp19_a2 0 x19_a2 6.417276890987679e-07
Cx20_a2 x20_a2 0 1.0
Gx20_a2 0 x20_a2 p2 0 0.07071067811865475
Fx20_a2 0 x20_a2 V2 3.5355339059327378
Rp20_a2 0 x20_a2 1.4526662651175536e-06
Cx21_a2 x21_a2 0 1.0
Gx21_a2 0 x21_a2 p2 0 0.07071067811865475
Fx21_a2 0 x21_a2 V2 3.5355339059327378
Rp21_a2 0 x21_a2 3.1538653665615057e-06
Cx22_a2 x22_a2 0 1.0
Gx22_a2 0 x22_a2 p2 0 0.07071067811865475
Fx22_a2 0 x22_a2 V2 3.5355339059327378
Rp22_a2 0 x22_a2 7.470497934366621e-06
Cx23_a2 x23_a2 0 1.0
Gx23_a2 0 x23_a2 p2 0 0.07071067811865475
Fx23_a2 0 x23_a2 V2 3.5355339059327378
Rp23_a2 0 x23_a2 2.0288181193043306e-05
Cx24_a2 x24_a2 0 1.0
Gx24_a2 0 x24_a2 p2 0 0.07071067811865475
Fx24_a2 0 x24_a2 V2 3.5355339059327378
Rp24_a2 0 x24_a2 6.483843398736913e-05
Cx25_a2 x25_a2 0 1.0
Gx25_a2 0 x25_a2 p2 0 0.07071067811865475
Fx25_a2 0 x25_a2 V2 3.5355339059327378
Rp25_a2 0 x25_a2 0.00028125761872502313
Cx26_a2 x26_a2 0 1.0
Gx26_a2 0 x26_a2 p2 0 0.07071067811865475
Fx26_a2 0 x26_a2 V2 3.5355339059327378
Rp26_a2 0 x26_a2 0.0018515984618650313
Cx27_a2 x27_a2 0 1.0
Gx27_a2 0 x27_a2 p2 0 0.07071067811865475
Fx27_a2 0 x27_a2 V2 3.5355339059327378
Rp27_a2 0 x27_a2 0.022243749376790932
Cx28_a2 x28_a2 0 1.0
Gx28_a2 0 x28_a2 p2 0 0.07071067811865475
Fx28_a2 0 x28_a2 V2 3.5355339059327378
Rp28_a2 0 x28_a2 0.6875244898564169
Cx29_a2 x29_a2 0 1.0
Gx29_a2 0 x29_a2 p2 0 0.07071067811865475
Fx29_a2 0 x29_a2 V2 3.5355339059327378
Rp29_a2 0 x29_a2 452.12015094095744
Cx30_a2 x30_a2 0 1.0
Gx30_a2 0 x30_a2 p2 0 0.07071067811865475
Fx30_a2 0 x30_a2 V2 3.5355339059327378
Rp30_a2 0 x30_a2 113201912312.5752
Cx31_a2 x31_a2 0 1.0
Gx31_a2 0 x31_a2 p2 0 0.07071067811865475
Fx31_a2 0 x31_a2 V2 3.5355339059327378
Rp31_a2 0 x31_a2 205971287.1794189
.ENDS s_equivalent
