* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.024990748599675768
Fd1_1 0 s1 V1 1.2495374299837885
Gr1_1_1 0 s1 x1_a1 0 -119887326084.89981
Gr2_re_1_1 0 s1 x2_re_a1 0 -4532411288.413711
Gr2_im_1_1 0 s1 x2_im_a1 0 -530067256.004465
Gr3_re_1_1 0 s1 x3_re_a1 0 1085736450.1083584
Gr3_im_1_1 0 s1 x3_im_a1 0 8382818991.3910055
Gr4_1_1 0 s1 x4_a1 0 9887210546.830114
Gr5_1_1 0 s1 x5_a1 0 61048385.02277336
Gr6_1_1 0 s1 x6_a1 0 -138633139.89259744
Gd1_2 0 s1 p2 0 0.1601314281553543
Fd1_2 0 s1 V2 8.006571407767716
Gr1_1_2 0 s1 x1_a2 0 -886383543734.2557
Gr2_re_1_2 0 s1 x2_re_a2 0 -2827905240.7012715
Gr2_im_1_2 0 s1 x2_im_a2 0 6226313340.086086
Gr3_re_1_2 0 s1 x3_re_a2 0 308213473.94650304
Gr3_im_1_2 0 s1 x3_im_a2 0 12217514630.787548
Gr4_1_2 0 s1 x4_a2 0 25786733766.3723
Gr5_1_2 0 s1 x5_a2 0 145049424.1495121
Gr6_1_2 0 s1 x6_a2 0 -296382065.1438431
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 3.0065093934694474e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.1626965101424815e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 14101419528.626127
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -14101419528.626127
Rp2_im_im_a1 0 x2_im_a1 1.1626965101424815e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.261737882063201e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 7124150102.340481
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -7124150102.340481
Rp3_im_im_a1 0 x3_im_a1 1.261737882063201e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.2026855353140737e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 7.665910208975394e-09
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.6771575861145813e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.1601314281553543
Fd2_1 0 s2 V1 8.006571407767716
Gr1_2_1 0 s2 x1_a1 0 -886383543734.2557
Gr2_re_2_1 0 s2 x2_re_a1 0 -2827905240.7012935
Gr2_im_2_1 0 s2 x2_im_a1 0 6226313340.086059
Gr3_re_2_1 0 s2 x3_re_a1 0 308213473.9464262
Gr3_im_2_1 0 s2 x3_im_a1 0 12217514630.787659
Gr4_2_1 0 s2 x4_a1 0 25786733766.372498
Gr5_2_1 0 s2 x5_a1 0 145049424.1495128
Gr6_2_1 0 s2 x6_a1 0 -296382065.1438461
Gd2_2 0 s2 p2 0 0.0237837597862348
Fd2_2 0 s2 V2 1.18918798931174
Gr1_2_2 0 s2 x1_a2 0 -113100690250.74982
Gr2_re_2_2 0 s2 x2_re_a2 0 -4358195522.68011
Gr2_im_2_2 0 s2 x2_im_a2 0 -508521996.1959391
Gr3_re_2_2 0 s2 x3_re_a2 0 1047220800.3527311
Gr3_im_2_2 0 s2 x3_im_a2 0 8029362386.841384
Gr4_2_2 0 s2 x4_a2 0 9435958624.208946
Gr5_2_2 0 s2 x5_a2 0 59271191.91831336
Gr6_2_2 0 s2 x6_a2 0 -135272931.3679976
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 3.0065093934694474e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.1626965101424815e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 14101419528.626127
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -14101419528.626127
Rp2_im_im_a2 0 x2_im_a2 1.1626965101424815e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.261737882063201e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 7124150102.340481
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -7124150102.340481
Rp3_im_im_a2 0 x3_im_a2 1.261737882063201e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.2026855353140737e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 7.665910208975394e-09
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.6771575861145813e-09
.ENDS s_equivalent
